US04978663
N-[1-(1,6-Dihydro-6-oxo-3-pyridinyl)-4,4-dimethylcyclohexyl]formamide hydrochloride
Concentrated sulfuric acid (54 ml) was added dropwise over 45 minutes to a suspension of 5-(4,4-dimethyl-1-hydroxycyclohexyl)-2(1H)-pyridinone (15 g) and potassium cyanide (13.2 g) in 272 ml of trifluoroacetic acid at 0° C. The resulting suspension was stirred at room temperature for 17 hours and then cooled to 0° C., and diethyl ether was added slowly. The solvent was decanted, and the solids were washed with diethyl ether. The product was then dissolved in methanol and neutralized with poly-4-vinylpyridine. The polymer was removed by filtration, and the filtrate concentrated, yielding a foam, which was dissolved in methanol and acidified with ethereal HCl. The volume of solvent was reduced in vacuo, and the precipitated solid (7.1 g) was collected and used in subsequent reactions without further purification.

reactant | sulfuric acid | 54 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-(4,4-dimethyl-1-hydroxycyclohexyl)-2(1H)-pyridinone | 15 g | CC1(CCC(CC1)(O)C=1C=CC(NC1)=O)C | C13H19NO2
reactant | potassium cyanide | 13.2 g | [C-]#N.[K+]
reactant | HCl | Cl | ClH
reactant | trifluoroacetic acid | 272 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[1-(1,6-Dihydro-6-oxo-3-pyridinyl)-4,4-dimethylcyclohexyl]formamide hydrochloride | Cl.O=C1C=CC(=CN1)C1(CCC(CC1)(C)C)NC=O | InChI=1S/C14H20N2O2.ClH/c1-13(2)5-7-14(8-6-13,16-10-17)11-3-4-12(18)15-9-11;/h3-4,9-10H,5-8H2,1-2H3,(H,15,18)(H,16,17);1H
